US05025025
Methyl 8-amino-6-(3-pyridylmethyl)-octanoate (0.5 g) is dissolved in 50 mL of methylene chloride and 3 mL of triethylamine is added. To this solution is added dropwise a solution of 0.5g of p-chlorobenzenesulfonyl chloride in 10 mL of methylene chloride. The reaction is stirred at room temperature for 1 hour, the solvent is evaporated and the residue thus obtained purified by chromatography over silica gel, using methylene chloride as eluent to obtain methyl 8-(p-chlorophenylsulfonamido)-6-(3-pyridylmethyl)-octanoate as an oil.

reactant | Methyl 8-amino-6-(3-pyridylmethyl)-octanoate | 0.5 g | NCCC(CCCCC(=O)OC)CC=1C=NC=CC1 | C15H24N2O2
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 0.5g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 8-(p-chlorophenylsulfonamido)-6-(3-pyridylmethyl)-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCC(CCCCC(=O)OC)CC=1C=NC=CC1 | C21H27ClN2O4S
